US06166219
A solution of 7 ml of methanol containing 0.60 g of N-benzenesulfonyl-4-acetylamino-3-aminobenzamide, 0.656 g of 2,4-difluorobenzyl bromide and 0.423 g of potassium hydrogencarbonate was stirred at 60° C. for 1 hour. The reaction solution was concentrated, and the residue was purified through silica-gel column chromatography (eluent: a mixture of ethyl acetate and methanol at a ratio of 9:1) to give 0.370 g of N-benzenesulfonyl-4-acetylamino-3-(2,4-difluorobenzylamino)benzamide.

reactant | N-benzenesulfonyl-4-acetylamino-3-aminobenzamide | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)N)=O | C15H15N3O4S
reactant | 2,4-difluorobenzyl bromide | 0.656 g | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
reactant | potassium hydrogencarbonate | 0.423 g | C(O)([O-])=O.[K+]
solvent | methanol | 7 ml, 0.60 g | CO | CH4O
product | N-benzenesulfonyl-4-acetylamino-3-(2,4-difluorobenzylamino)benzamide | 0.370 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC(=C(C=C1)NC(C)=O)NCC1=C(C=C(C=C1)F)F)=O | C22H19F2N3O4S
